US06251926B1
To a solution of 4-[2-(methyl-2-pyridylamino)ethoxy]benzaldehyde (15.0 g) in methanol (70 ml), sodium borohydride (1.11 g) was added at 0° C. in portions. After stirring for 30 minutes, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4), and then concentrated. The residue was subjected to column chromatography on silica gel, and 4-[2-(methyl-2-pyridylamino)ethoxy]benzylalcohol (14.3 g, yield 94%) was obtained from a fraction eluted with ethyl acetate-hexane (1:1, v/v) as an oil.

reactant | 4-[2-(methyl-2-pyridylamino)ethoxy]benzaldehyde | 15.0 g | CN(CCOC1=CC=C(C=O)C=C1)C1=NC=CC=C1 | C15H16N2O2
reactant | sodium borohydride | 1.11 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 4-[2-(methyl-2-pyridylamino)ethoxy]benzylalcohol | 14.3 g, yield 94% | CN(CCOC1=CC=C(CO)C=C1)C1=NC=CC=C1 | C15H18N2O2
